US05807883
Under ice cooling, 2 ml of boron tribromide was added dropwise to a stirred solution of 1.64 g of ethyl 3-[2,3-dihydro-3-[(E)-3-(3-methoxyphenyl)-2-propenoylamino]-2-oxo-1-pentyl-1H-indol-3-yl]propionate in methylene chloride (30 ml). After stirring under ice cooling for 1 hour, the mixture was poured into ice water and extracted with chloroform. After the extract was dried, the solvent was removed by evaporation under reduced pressure. The residue was purified by silica gel column chromatography [hexane-ethyl acetate (1:1)] to afford 1.53 g of ethyl 3-[2,3-dihydro-3-[(E)-3-(3-hydroxyphenyl)-2-propenoylamino]-2-oxo-1-pentyl-1H-indol-3-yl]propionate as a colorless amorphous solid. IR (Nujol) (cm-1) : 3280, 1705, 1660, 1610, FAB-MS (m/z): 465 (MH+), 302, 256, 228, 147 (base).

reactant | boron tribromide | 2 ml | B(Br)(Br)Br | BBr3
reactant | ethyl 3-[2,3-dihydro-3-[(E)-3-(3-methoxyphenyl)-2-propenoylamino]-2-oxo-1-pentyl-1H-indol-3-yl]propionate | 1.64 g | COC=1C=C(C=CC1)/C=C/C(=O)NC1(C(N(C2=CC=CC=C12)CCCCC)=O)CCC(=O)OCC | C28H34N2O5
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-[2,3-dihydro-3-[(E)-3-(3-hydroxyphenyl)-2-propenoylamino]-2-oxo-1-pentyl-1H-indol-3-yl]propionate | 1.53 g | OC=1C=C(C=CC1)/C=C/C(=O)NC1(C(N(C2=CC=CC=C12)CCCCC)=O)CCC(=O)OCC | C27H32N2O5
